US04234572
4-Nitrophenyl 2-dimethylaminoethyl carbonate hydrochloride
270 mg of 2-dimethylaminoethanol in 5 ml of acetonitrile are stirred with 630 mg of chloroformic acid p-nitrophenyl ester at room temperature for 30 minutes, the mixture is concentrated in vacuo and the residue is stirred with 2 ml of ethyl acetate; yield: 0.4 g; IR: 1770 cm-1.

reactant | 2-dimethylaminoethanol | 270 mg | CN(CCO)C | C4H11NO
reactant | chloroformic acid p-nitrophenyl ester | 630 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)Cl | C7H4ClNO4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-Nitrophenyl 2-dimethylaminoethyl carbonate hydrochloride | Cl.C(OC1=CC=C(C=C1)[N+](=O)[O-])(OCCN(C)C)=O | InChI=1S/C11H14N2O5.ClH/c1-12(2)7-8-17-11(14)18-10-5-3-9(4-6-10)13(15)16;/h3-6H,7-8H2,1-2H3;1H
